US08097628B2
(b) Title compound: 5-Bromo-6-(trifluoromethyl)-3-pyridinecarbaldehyde
To a solution of [5-bromo-6-(trifluoromethyl)-3-pyridinyl]methanol (155 mg, 0.605 mmol) in DCM (10 mL) was added CrO2 (Magtrieve) (1017 mg, 12.11 mmol). The suspension was heated at 40° C. in a pressure tube overnight. TLC showed starting material remaining, an excess of CrO2 (254 mg, 3.03 mmol) was added. The reaction mixture was heated at 40° C. for 4 h. The suspension was filtered over nylon membrane 0.45 μm and it was rinsed with DCM. The filtrate was evaporated under vacuum to afford 120 mg (78%) of title compound pure enough to be used in the next step.

reactant | [5-bromo-6-(trifluoromethyl)-3-pyridinyl]methanol | 0.605 mmol, 155 mg | BrC=1C=C(C=NC1C(F)(F)F)CO | C7H5BrF3NO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-Bromo-6-(trifluoromethyl)-3-pyridinecarbaldehyde | 120 mg, 78% | BrC=1C=C(C=NC1C(F)(F)F)C=O | C7H3BrF3NO
